US04113669
2-Oxo-2-tetrahydrofurfuryloxy-3,3,5-trimethyl-5-bis-(tetrahydrofurfuryl)phosphono-1,2-oxaphospholane
As described in Example 1, a mixture of 37.6 g of bis-(tetrahydrofurfuryl) phosphite and 4.9 g of mesityl oxide in 80 ml of benzene was reacted by heating in the presence of 1.3 g of sodium over the course of 1 hour. The reaction was vigorously exothermic. The sodium was neutralized by addition of 3.4 g of glacial acetic acid. The inorganic salt was extracted from the mixture with 2 portions of 20 ml of water. The benzene solvent was removed in a rotary evaporator, leaving as residue 32.6 g of crude product which still contained di-tetrahydrofurfuryl phosphite. Distillation of 4.3 g of the crude product in a bulb tube oven in high vacuum yielded the desired product at an oven temperature between 185° C. and 230° C. and a pressure of 0.01 mm Hg.

reactant | bis-(tetrahydrofurfuryl) phosphite | 37.6 g | P(OCC1CCCO1)(OCC1CCCO1)[O-]
reactant | mesityl oxide | 4.9 g | O=C(C)C=C(C)C | C6H10O
reactant | sodium | 1.3 g | [Na] | Na
reactant | acetic acid | 3.4 g | C(C)(=O)O | C2H4O2
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 2-Oxo-2-tetrahydrofurfuryloxy-3,3,5-trimethyl-5-bis-(tetrahydrofurfuryl)phosphono-1,2-oxaphospholane | O=P1(OC(CC1(C)C)(P(=O)(OCC1CCCO1)OCC1CCCO1)C)OCC1CCCO1 | C21H38O9P2
